US07199135B2
To a solution of (4S)-4-isopropyl-1,3-oxazolidin-2-one (2.0 g, 15.5 mmol) in dry THF (20 mL) at −78° C. under argon, was added dropwise a 2.5M solution of n-BuLi in hexanes (6.2 mL, 15.5 mmol). After stirring at −78° C. for 15 min, (4-fluorophenyl)acetyl chloride (2.55 mL, 18.6 mmol) was added. The resulting reaction mixture was stirred at −78° C. for 30 min and 0° C. for 15 min, quenched with saturated NH4Cl (5 mL) and concentrated in vacuo. The residue was dissolved in EtOAc (100 mL) and washed with saturated Na2CO3 following by brine, dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (10%–15% EtOAc/hexane) to give 2.83 g (10.7 mmol, 69%) of (4S)-3-[(4-fluorophenyl)acetyl]-4-isopropyl-1,3-oxazolidin-2-one: 1H NMR (400 MHz, CDCl3) δ 7.30–7.25 (m, 2H), 7.10 (t, 2H, J=8.5 Hz), 4.46–4.41 (m, 1H), 4.36–4.15 (m, 4H), 2.40–2.28 (m, 1H), 0.88 (d, 3H, J=7.6 Hz), 0.79 (d, 3H, J=7.6 Hz); ESMS m/e: 266.2 (M+H)+.

reactant | (4S)-4-isopropyl-1,3-oxazolidin-2-one | 15.5 mmol, 2.0 g | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | n-BuLi | [Li]CCCC
reactant | (4-fluorophenyl)acetyl chloride | 18.6 mmol, 2.55 mL | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4S)-3-[(4-fluorophenyl)acetyl]-4-isopropyl-1,3-oxazolidin-2-one | 10.7 mmol, 2.83 g, 69% | FC1=CC=C(C=C1)CC(=O)N1C(OC[C@@H]1C(C)C)=O | C14H16FNO3
